US07851473B2
(2) N-(6-Methoxypyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl (6-methoxypyridin-3-yl)carbamate (300 mg, 1.00 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (246 mg, 1.00 mmol), diisopropylethylamine (0.174 ml, 1.00 mmol) and dimethylsulfoxide (5 ml) was stirred at 70° C. for 5 hours, the reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the desired product as a solid. This was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to obtain the desired product (84.0 mg, 21.2%) as a solid.

reactant | 2,2,2-trichloroethyl (6-methoxypyridin-3-yl)carbamate | 1.00 mmol, 300 mg | COC1=CC=C(C=N1)NC(OCC(Cl)(Cl)Cl)=O | C9H9Cl3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 1.00 mmol, 246 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.00 mmol, 0.174 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(6-Methoxypyridin-3-yl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | COC1=CC=C(C=N1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H20N6O2S
